US07220862B2
(±)-4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid [2-[1,4′]bipiperidinyl-1′-yl-2-oxo-1-(6-oxo-1,6-dihydro-pyridin-3-ylmethyl)-ethyl]-amide
A flask was charged with 4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid [1-(6-benzyloxy-pyridin-3-ylmethyl)-2-[1,4′]bipiperidinyl-1′-yl-2-oxo-ethyl]-amide (27 mg, 0.04 mmol), palladium on charcoal (10%, 4 mg), and methanol (1 mL). The flask was flushed with nitrogen, then hydrogen, and allowed to stir under an atmosphere of hydrogen overnight. The flask was flushed with nitrogen, and the reaction filtered through celite to give 22.1 mg (94%). LC/MS: tR=0.93 min, 590.32 (MH)+.

reactant | 4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid [1-(6-benzyloxy-pyridin-3-ylmethyl)-2-[1,4′]bipiperidinyl-1′-yl-2-oxo-ethyl]-amide | 0.04 mmol, 27 mg | C(C1=CC=CC=C1)OC1=CC=C(C=N1)CC(C(=O)N1CCC(CC1)N1CCCCC1)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C39H49N7O4
catalyst | palladium on charcoal | 4 mg | [Pd] | Pd
solvent | methanol | 1 mL | CO | CH4O
product | (±)-4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid [2-[1,4′]bipiperidinyl-1′-yl-2-oxo-1-(6-oxo-1,6-dihydro-pyridin-3-ylmethyl)-ethyl]-amide | N1(CCCCC1)C1CCN(CC1)C(C(CC1=CNC(C=C1)=O)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C32H43N7O4
